US04625042
A mixture of 2.00 g of 3-(4-fluorophenoxy)propionitrile and 40 g of 85% sulfuric acid was stirred for 10 hours at 90° C. After cooling, the reaction mixture was poured into a proper amount of ice-water and extracted with ethyl acetate. After an ethyl acetate layer was neutralized with 20% aqueous solution of sodium hydroxide, the layer was dehydrated with anhydrous magnesium sulfate. Ethyl acetate was distilled away to give 861 mg of a white crystal of 6-fluoro-4-chromanone (yield: 43%).

reactant | 3-(4-fluorophenoxy)propionitrile | 2.00 g | FC1=CC=C(OCCC#N)C=C1 | C9H8FNO
reactant | sulfuric acid | 40 g | S(O)(O)(=O)=O | H2O4S
product | 6-fluoro-4-chromanone | yield: 43% | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
